US07094908B2
(1) Methyl 3-tetrahydropyrrolyl-2-butenoate
Methyl acetoacetate (20 g, 172.23 mmol) was dissolved in 250 mL of toluene, and then pyrrolidine (43 ml, 516.70 mmol) and p-toluenesulfonic acid hydrate (about 100 mg) were added dropwise. After installing a Dean-Stark separator to the reactor, the reaction mixture was refluxed 140° C. for two days, and then solvent was removed by concentrating the resulting mixture under a reduced pressure, thereby to obtain the desired product (29 g, 99%).

reactant | Methyl acetoacetate | 172.23 mmol, 20 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | pyrrolidine | 516.70 mmol, 43 ml | N1CCCC1 | C4H9N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid hydrate | about 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 3-tetrahydropyrrolyl-2-butenoate | 29 g, 99% | N1C(CCC1)C(=CC(=O)OC)C | C9H15NO2
